US05786379
(e) Preparation of methyl 4-[3-hydroxy-3-[5-(1-adamantyl)-2,4-di(methoxyethoxymethoxy)phenyl]-1-propynyl]benzoate
760 mg (1.6 mmol) of a-ethynyl-5-(1-adamantyl)-2,4-di(methoxyethoxymethoxy)benzenemethanol, 420 mg (1.6 mmol) of methyl 4-iodobenzoate and 20 ml of triethylamine were introduced into a three-necked flask. The reaction medium was degassed with nitrogen for 30 min, then 90 mg of bis(triphenylphosphine)palladium(II) chloride and 37 mg of copper iodide were added successively. The reaction medium was stirred at room temperature for four hours, then evaporated to dryness, and the residue obtained was taken up in water and ethyl ether. The organic phase was separated out after settling had taken place, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a column of silica, eluted with dichloromethane and 800 mg (82%) of the expected methyl ester were recovered in the form of a brown oil.

reactant | a-ethynyl-5-(1-adamantyl)-2,4-di(methoxyethoxymethoxy)benzenemethanol | 1.6 mmol, 760 mg | C(#C)C(O)C1=C(C=C(C(=C1)C12CC3CC(CC(C1)C3)C2)OCOCCOC)OCOCCOC | C27H38O7
reactant | methyl 4-iodobenzoate | 1.6 mmol, 420 mg | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | methyl 4-[3-hydroxy-3-[5-(1-adamantyl)-2,4-di(methoxyethoxymethoxy)phenyl]-1-propynyl]benzoate | OC(C#CC1=CC=C(C(=O)OC)C=C1)C1=C(C=C(C(=C1)C12CC3CC(CC(C1)C3)C2)OCOCCOC)OCOCCOC | C35H44O9
